US08541448B2
Intermediate 10.5: 4-(4-(benzylthio)phenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed K2CO3 (800 mg, 0.50 equiv) and xylene (50 mL). This was followed by the addition of phenylmethanethiol (1.75 g, 1.00 equiv) dropwise with stirring at 0° C. The resulting mixture was then allowed to warm to room temperature and stirred for 1 h. Into another 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 4-(4-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline (4.8 g, 0.80 equiv), Xantphos (200 mg, 0.08 equiv) and Pd2(dba)3 (200 mg, 0.08 equiv) in xylene (30 mL). The mixture was stirred at room temperature for 20 min and transferred to the previously formed potassium thiolate. The dark solution was then purged with nitrogen and heated to 130° C. for 15 h. After cooling to room temperature, the mixture was concentrated under reduced pressure. The crude product was then purified by silica gel chromatography with ethyl acetate/petroleum ether (1:80-1:50) to afford 1.8 g (30%) of the title compound as yellow oil. MS (ES, m/z): 414 [M+H]+.

reactant | K2CO3 | 800 mg, 0.50 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | phenylmethanethiol | 1.75 g, 1.00 equiv | C1(=CC=CC=C1)CS | C7H8S
reactant | 4-(4-bromophenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 4.8 g, 0.80 equiv | BrC1=CC=C(C=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C16H14BrCl2N
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 200 mg, 0.08 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 200 mg, 0.08 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-(benzylthio)phenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 1.8 g, 30% | C(C1=CC=CC=C1)SC1=CC=C(C=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C23H21Cl2NS
